US04335127
A mixture of 6 parts of 2-amino-N-[2-[4-(4-fluorobenzoyl)-1-piperidinyl]ethyl]benzamide, 10 parts of acetic acid anhydride and 108 parts of methylbenzene is stirred and refluxed overnight. The reaction mixture is evaporated and water is added to the oily residue. The whole is alkalized with a dilute sodium hydroxide solution and extracted with trichloromethane. The extract is dried, filtered and evaporated. The oily residue is crystallized from a mixture of 4-methyl-2-pentanone and 2,2'-oxybispropane. The product is filtered off and recrystallized from 2-propanol, yielding 4.4 parts (69%) of 3-[2-[4-(4-fluorobenzoyl)-1-piperidinyl]ethyl]-2-methyl-4(3H)-quinazolinone; mp. 164.9° C.

reactant | 2-amino-N-[2-[4-(4-fluorobenzoyl)-1-piperidinyl]ethyl]benzamide | NC1=C(C(=O)NCCN2CCC(CC2)C(C2=CC=C(C=C2)F)=O)C=CC=C1 | C21H24FN3O2
reactant | acetic acid anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | methylbenzene | CC1=CC=CC=C1 | C7H8
product | 3-[2-[4-(4-fluorobenzoyl)-1-piperidinyl]ethyl]-2-methyl-4(3H)-quinazolinone | 69% | FC1=CC=C(C(=O)C2CCN(CC2)CCN2C(=NC3=CC=CC=C3C2=O)C)C=C1 | C23H24FN3O2
